US05356558
1-Bromo-4-butylbenzene (235 g), 3-methyl-1-butyne-3-ol (139 g), triphenylphosphine (4.8 g) and bis(triphenylphosphine)palladium(II) chloride (2.8 g) were dissolved in triethylamine (1,000 ml), and then copper(I) iodide (0.8 g) was added thereto. After stirring at room temperature for 1 hour, the reaction mixture was further stirred at 90° C. for 5 hours. The resulting precipitated crystals were filtered, and then triethylamine was distilled off therefrom, followed by extracting with chloroform. The resultant was washed with 10% hydrochloric acid twice, and further with water twice, and then chloroform was distilled off therefrom. The residue was purified using silica gel-chloroform column chromatography to give 3-methyl-1-(4'-butylphenyl)-1-butyne-3-ol (100 g).

reactant | 1-Bromo-4-butylbenzene | 235 g | BrC1=CC=C(C=C1)CCCC | C10H13Br
reactant | 3-methyl-1-butyne-3-ol | 139 g | CC(C#C)(C)O | C5H8O
solvent | triethylamine | 1,000 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 2.8 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.8 g | [Cu]I
catalyst | triphenylphosphine | 4.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-methyl-1-(4'-butylphenyl)-1-butyne-3-ol | 100 g | CC(C#CC1=CC=C(C=C1)CCCC)(C)O | C15H20O
